US07964607B2
1-isopropyl-6-[(3S,4S)-4-methyl-1-(quinolin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and quinoline-3-carbaldehyde provided the title compound. 400 MHz 1H NMR (CD3OD) δ 11.0 (brs, 1H), 8.87 (d, J=2.1 Hz, 1H), 8.29 (s, 1H), 8.07 (d, J=8.3 Hz, 1H), 8.02 (s, 1H), 7.90-7.88 (m, 1H), 7.70-7.66 (m, 1H), 7.56-7.51 (m, 1H), 5.01-4.92 (m, 1H), 4.03-3.83 (m, 2H), 3.40 (t, J=8.7 Hz, 1H), 3.07 (d, J=9.5 Hz, 1H), 2.89-2.86 (m, 1H), 2.68-2.67 (m, 1H), 2.48-2.47 (m, 1H), 2.08-2.02 (m, 1H), 1.48 (dd, J=6.6, 16.59 Hz, 6H), 1.20 (J=7.1 Hz, 3H). MS: (M+H m/z 403.1).

reactant | 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C13H19N5O
reactant | quinoline-3-carbaldehyde | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
product | 1-isopropyl-6-[(3S,4S)-4-methyl-1-(quinolin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CN(C[C@H]2C)CC=2C=NC1=CC=CC=C1C2 | C23H26N6O
